US08044061B2
Preparation of 8-(3-Hydroxyphenylethynyl)-3,7-dimethyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione
To a solution of 100 mg (0.28 mmol) 8-(3-methoxyphenylethynyl)-3,7-dimethyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione in dichloromethane (25 mL) was added boron tribromide (0.5 mL, 5.3 mmol) at room temperature. After a few minutes precipitation of a yellow solid could be observed. The suspension was stirred for 0.5-1 h at room temperature until no starting material could be detected by TLC analyses (eluent: dichloromethane/methanol, 9.5:0.5). After hydrolysis with concentrated NaHCO3 solution (50 mL) the dichloromethane was removed under reduced pressure. The precipitate was filtered under reduced pressure, washed with water, dried at 70° C. and purified by column chromatography on silica gel (eluent: dichloro-methane/methanol, 9.5:0.5 or 9:1): colorless crystals (yield: 76%), m.p. 271° C.

reactant | 8-(3-methoxyphenylethynyl)-3,7-dimethyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione | 0.28 mmol, 100 mg | COC=1C=C(C=CC1)C#CC1=NC=2N(C(N(C(C2N1C)=O)CC#C)=O)C | C19H16N4O3
reactant | boron tribromide | 5.3 mmol, 0.5 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 8-(3-Hydroxyphenylethynyl)-3,7-dimethyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione | yield: 76% | OC=1C=C(C=CC1)C#CC1=NC=2N(C(N(C(C2N1C)=O)CC#C)=O)C | C18H14N4O3
